US04036838
61 g of benzoic acid were suspended in 200 ml of 1,2-dichloroethane. The suspension was heated to 40° C. following the addition of 38.6 g (0.60 mol) of 98% nitric acid. 63.5 g of 100% sulphuric acid were then added dropwise over a period of 2 hours at that temperature, followed by stirring for another 3 hours. After cooling to 20° C., the deposit was filtered off. The filter residue was washed four times with 4 × 25 ml of 1,2-dichloroethane and then with water, followed by drying at 90° C. 32.6 g (39% of the theoretical yield) of 3-nitrobenzoic acid were obtained in this way.

reactant | benzoic acid | 61 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | nitric acid | 0.60 mol, 38.6 g | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 63.5 g | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 3-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
